US05728701
Sodium hydride (60% dispersion in mineral oil, 2.44 g) was added to a stirred suspension of 4-[4-(4-pyridyl)piperazin-1-yl]phenol (15.5 g) in dry DMF (120 ml) and the mixture was stirred for 45 minutes at room temperature. tert-Butyl (3R)-3-methyl-4-(p-toluene-sulphonyloxy)butyrate (20 g) was added and the mixture was stirred at room temperature for 20 hours. The mixture was evaporated and the residue was partitioned between dichloromethane and water. The organic layer was washed with water, filtered through phase separating paper (Whatman IPS) and evaporated. The residue was triturated under diethyl ether. The solid so obtained was recrystallised from ethyl acetate to give tert-butyl (3R)-3-methyl-4-[4-[4-(4-pyridyl)piperazin-1-yl]phenoxy]butyrate (10.6 g), m.p. 112°-113° C.; [alpha]D =-5.5° (conc.=1 g/100 ml of methanol; 20° C.); NMR (CDCl3) δ 8.3(2H,d), 6.89(4H,m), 6.7(2H,m), 3.79(2H,d), 3.46(4H,m), 3.28(4H,m), 2.31-2.53(2H,m), 2.08.2.21(1H,m), 1.44(9H, s), 1.07(3H,d).

reactant | Sodium hydride | 2.44 g | [H-].[Na+]
reactant | 4-[4-(4-pyridyl)piperazin-1-yl]phenol | 15.5 g | N1=CC=C(C=C1)N1CCN(CC1)C1=CC=C(C=C1)O | C15H17N3O
reactant | tert-Butyl (3R)-3-methyl-4-(p-toluene-sulphonyloxy)butyrate | 20 g | C[C@H](CC(=O)OC(C)(C)C)COS(=O)(=O)C1=CC=C(C=C1)C | C16H24O5S
solvent | DMF | 120 ml | CN(C)C=O | C3H7NO
product | tert-butyl (3R)-3-methyl-4-[4-[4-(4-pyridyl)piperazin-1-yl]phenoxy]butyrate | 10.6 g | C[C@H](CC(=O)OC(C)(C)C)COC1=CC=C(C=C1)N1CCN(CC1)C1=CC=NC=C1 | C24H33N3O3
